US07449478B2
4-(3-Chloropropoxy)-1H-indole (0.100 g, 0.48 mmol), 7-propyl-3-trifluoromethyl-benzo[d]isoxazol-6-ol (0.117 g, 0.48 mmol), potassium carbonate (0.099 g, 0.72 mmol), potassium iodide (0.016 g, 0.10 mmol), and DMF (5 mL) were mixed and heated at 110° C. for 1.5 hours. The mixture was cooled to room temperature. Water (10 mL) and ethyl acetate (10 mL) were added and the resultant mixture was stirred for five minutes. The organic layer was separated and aqueous layer was extracted again with ethyl acetate (10 mL). The organic layer was combined, washed with water (6×20 mL) and brine (2×20 mL), and dried over anhydrous Na2SO4. The solvent was removed in vacuo to give an oily residue, which was purified by filtering through a short silica column using hexane/dichloromethane (50/50) as an eluant to afford 6-[3-(1H-indol-4-yloxy)-propoxy]-7-propyl-3-trifluoromethyl-benzo[d]isoxazole (0.156 g, yield: 78%).

reactant | 4-(3-Chloropropoxy)-1H-indole | 0.48 mmol, 0.100 g | ClCCCOC1=C2C=CNC2=CC=C1 | C11H12ClNO
reactant | 7-propyl-3-trifluoromethyl-benzo[d]isoxazol-6-ol | 0.48 mmol, 0.117 g | C(CC)C1=C(C=CC=2C(=NOC21)C(F)(F)F)O | C11H10F3NO2
reactant | potassium carbonate | 0.72 mmol, 0.099 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.10 mmol, 0.016 g | [I-].[K+]
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | Water | 10 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6-[3-(1H-indol-4-yloxy)-propoxy]-7-propyl-3-trifluoromethyl-benzo[d]isoxazole | 0.156 g, yield: 78% | N1C=CC2=C(C=CC=C12)OCCCOC1=C(C2=C(C(=NO2)C(F)(F)F)C=C1)CCC | C22H21F3N2O3
